US05663162
To the solution of 1 g (3.6 mole) of 5-[1-methyl-1-[(trifluoroacetyl)amino]-ethyl]imidazo[5,1-b]thiazole in 3 ml of methanol was added 0.72 g (0.018 mole) of sodium hydroxide, and the mixture was stirred at 50° C. for 10 hours. The reaction mixture was concentrated, and the residue thus obtained was dissolved in 100 ml of ethyl acetate and washed twice with 100 ml of a saturated aqueous potassium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated to dryness to give 0.74 g of crude 5-(1-amino-1-methylethyl)imidazo[5,1-b]thiazole. The mixture of 0.74 g of the crude product, 3 ml of formic acid and 1.5 ml of acetic anhydride was stirred in the absence of solvents for 3 hours and treated in the same manner as in Preparation 15 (c) to give 0.63 g of the title compound. Yield 83%. NMR (CDCl3) δ: 1.74 (6H, s), 6.95 (1H, s), 7.11 (1H, d, J=4.8 Hz), 7.71 (1H, d, J=4.8 Hz), 8.01 (1H, s).

reactant | 5-[1-methyl-1-[(trifluoroacetyl)amino]-ethyl]imidazo[5,1-b]thiazole | 3.6 mole, 1 g | CC(C)(NC(C(F)(F)F)=O)C1=NC=C2SC=CN21 | C10H10F3N3OS
reactant | sodium hydroxide | 0.018 mole, 0.72 g | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-(1-amino-1-methylethyl)imidazo[5,1-b]thiazole | 0.74 g | NC(C)(C)C1=NC=C2SC=CN21 | C8H11N3S
